US07902226B2
Ethyl 2-(2,4-difluoro-3-methylbenzoyl)-3-dimethylaminoacrylate
2,4-Difluoro-3-methylbenzoate (4.97 g, 28.9 mmol) was dissolved in toluene (50 ml), and after adding N,N-dimethylformamide (0.1 ml) and thionyl chloride (3.16 ml, 43.4 mmol) thereto, it was stirred for 14 hours in an oil bath of 80° C. The reaction solution was then cooled and thereafter concentrated under a reduced pressure. After adding toluene to the residue and repeating concentration under a reduced pressure, the residue obtained was dissolved in tetrahydrofuran (10 ml). This solution was added dropwise while cooling with ice to a solution in which ethyl 3-dimethylaminoacrylate (4.97 g, 34.7 mmol) and triethylamine (5.04 ml, 36.1 mmol) were dissolved in tetrahydrofuran (20 ml). After completion of dripping, the reaction solution was heated under reflux for 10 hours. After completion of the reaction, the reaction solution was filtered, the triethylamine hydrochloride salt was removed (by diethyl ether washing), and the filtrate was concentrated under a reduced pressure. The residue obtained was applied to a short silica gel chromatography and 6.70 g (78%) of the title compound was obtained in the form of a yellow powder from an n-hexane:ethyl acetate=1:1 eluate.

reactant | 2,4-Difluoro-3-methylbenzoate | 28.9 mmol, 4.97 g | FC1=C(C(=O)[O-])C=CC(=C1C)F
reactant | thionyl chloride | 43.4 mmol, 3.16 ml | S(=O)(Cl)Cl | Cl2OS
reactant | ethyl 3-dimethylaminoacrylate | 34.7 mmol, 4.97 g | CN(C=CC(=O)OCC)C | C7H13NO2
reactant | triethylamine | 36.1 mmol, 5.04 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | n-hexane | CCCCCC | C6H14
solvent | N,N-dimethylformamide | 0.1 ml | CN(C=O)C | C3H7NO
product | Ethyl 2-(2,4-difluoro-3-methylbenzoyl)-3-dimethylaminoacrylate | 6.70 g, 78% | FC1=C(C(=O)C(C(=O)OCC)=CN(C)C)C=CC(=C1C)F | C15H17F2NO3
